US08076345B2
F) (S)-2-Amino-2-(6-methoxypyridin-3-yl)ethanol
A mixture of (S)-2-azido-2-(6-methoxypyridin-3-yl)ethanol (0.90 g, 4.6 mmol), EtOAc (50 mL), and 10% Pd—C (100 mg) was stirred under H2 (1 atm) for 1 h. The catalyst was filtered off and the filtrate was concentrated in vacuo to yield a thick oil (0.78 g, 100%).

reactant | (S)-2-azido-2-(6-methoxypyridin-3-yl)ethanol | 4.6 mmol, 0.90 g | N(=[N+]=[N-])[C@H](CO)C=1C=NC(=CC1)OC | C8H10N4O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-2-Amino-2-(6-methoxypyridin-3-yl)ethanol | 0.78 g, 100% | N[C@H](CO)C=1C=NC(=CC1)OC | C8H12N2O2
